US09169254B2
Di-tert-butyl dicarbonate (1.32 ml, 5.75 mmol) was added to a solution of 2-amino-4,6-dimethyl-phenol (731.8 mg, 5.335 mmol) in THF (3.7 ml), and the mixture was stirred at room temperature for five hours. The reaction mixture was concentrated under reduced pressure, and the resulting residue was then purified by silica gel column chromatography (hexane-ethyl acetate) to give (2-hydroxy-3,5-dimethyl-phenyl)-carbamic acid tert-butyl ester as a red purple solid (1.234 g, 97%).

reactant | Di-tert-butyl dicarbonate | 5.75 mmol, 1.32 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-amino-4,6-dimethyl-phenol | 5.335 mmol, 731.8 mg | NC1=C(C(=CC(=C1)C)C)O | C8H11NO
solvent | THF | 3.7 ml | C1CCOC1 | C4H8O
product | (2-hydroxy-3,5-dimethyl-phenyl)-carbamic acid tert-butyl ester | 1.234 g, 97% | C(C)(C)(C)OC(NC1=C(C(=CC(=C1)C)C)O)=O | C13H19NO3
